US05563157
3.2 Synthesis of (E)-2-(Fur-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid
Combine (E)-2-(fur-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester (112 mg, 0.19 mmol) and trifluoroacetic acid (2 mL) in dichloromethane (5 mL). After 2 hours, evaporate in vacuo, add dichloromethane and evaporate in vacuo to give the title compound.

reactant | (E)-2-(fur-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid, t-butyl ester | 0.19 mmol, 112 mg | O1C(=CC=C1)/C(/C(=O)OC(C)(C)C)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C29H27Cl2NO7S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (E)-2-(Fur-2-yl)-3-(1-p-toluenesulfonyl-2-carboethoxy-4,6-dichloroindol-3-yl)propenoic acid | O1C(=CC=C1)/C(/C(=O)O)=C\C1=C(N(C2=CC(=CC(=C12)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C25H19Cl2NO7S
